US06479487B1
1-(3-Pyridinylmethyl)-4-piperidone oxime is prepared from 1-(3-pyridinylmethyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(3-pyridinylmethyl)-4-piperidone | N1=CC(=CC=C1)CN1CCC(CC1)=O | C11H14N2O
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(3-Pyridinylmethyl)-4-piperidone oxime | N1=CC(=CC=C1)CN1CCC(CC1)=NO | C11H15N3O
